US06245763B1
1. 3-Cyano-6-isopropyl-2(1H)-pyridinone
A solution of 3-cyano-6-methyl-2(1H)-pyridinone (10.0 g, 74.6 mmol) in anhydrous tetrahydrofuran (100 mL) was cooled to −78° C. under nitrogen and reacted slowly with lithium diisopropylamide solution (40 mL of 1.4 M and 85 mL of 2.0 M, 226 mmol total) via syringe. After warming to 0° C. and stirring 2 hours, methyl iodide (10 mL, 160 mmol) was added and the reaction stirred 18 hours at ambient temperature. The reaction was poured into 0.67 N NaOH (300 mL), the phases separated, the aqueous layer washed with diethyl ether, and the combined organic layers extracted with water. The combined aqueous layers were acidified to pH 4 with 6 N HCl and extracted with methylene chloride, and the methylene chloride layer was washed with brine, dried over Na2SO4, and filtered. The filtrate was concentrated in vacuo and the residue purified by flash column chromatography (1:1 methylene chloride:ethyl acetate) giving the title compound as a light yellow solid (2.15 g, 18%). 1H NMR (300 MHz, CDCl3) δ13.25 (br s, 1H), 7.84 (d, 1H, J=7.5 Hz), 6.23 (d, 1H, J=7.5 Hz), 3.00 (septet, 1H, J=7.0 Hz), 1.36 (s, 3H), 1.34 (s, 3H). Also recovered from the column was the mono-methylated side-product 3-cyano-6-ethyl-2(1H)pyridinone (5.50 g, 50%). which was used to make the title compound in Example 97. 1H NMR (300 MHz, CDCl3) δ7.84 (d, J=7.5 Hz, 1H), 6.23 (d, J=7.4 Hz, 1H), 2.76 (q, J=7.6 Hz, 2H), 1.35 (t, J=7.5 Hz, 3H).

reactant | 3-cyano-6-methyl-2(1H)-pyridinone | 74.6 mmol, 10.0 g | C(#N)C=1C(NC(=CC1)C)=O | C7H6N2O
reactant | lithium diisopropylamide | 226 mmol, 1.4 M, 40 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | methyl iodide | 160 mmol, 10 mL | CI | CH3I
reactant | NaOH | 0.67 N, 300 mL | [OH-].[Na+]
reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 3-Cyano-6-isopropyl-2(1H)-pyridinone | 2.15 g, 18% | C(#N)C=1C(NC(=CC1)C(C)C)=O | C9H10N2O
